US07875728B2
4-[(3,4-difluorophenyl)hydrazono]-4H-pyrazol-3-ylamine was prepared from 3,4-difluoroaniline (0.62 g, 4.8 mmol) and 3-aminopyrazole (0.4 g, 4.8 mmol) according to the procedure described above except that the aniline was initially dissolved in a mixture of water (7.2 mL) and DMF (1.16 mL) prior to being acidified. The solvents were removed under reduced pressure and the resulting crude material was purified by column chromatography eluting with (CHCl3:MeOH=10:1) to yield 0.41 g (38%) of the compound as a yellow solid. 1H NMR (ppm, 200 MHz, DMSO-d6) δ 12.0 (br s, 1H), 7.2-8.0 (m, 4H), 6.9 (m, 2H).

reactant | 3,4-difluoroaniline | 4.8 mmol, 0.62 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | 3-aminopyrazole | 4.8 mmol, 0.4 g | NC1=NNC=C1 | C3H5N3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | water | 7.2 mL | O | H2O
solvent | DMF | 1.16 mL | CN(C)C=O | C3H7NO
product | 4-[(3,4-difluorophenyl)hydrazono]-4H-pyrazol-3-ylamine | FC=1C=C(C=CC1F)NN=C1C(=NN=C1)N | C9H7F2N5
